US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetic acid and ethyl L-prolinate and suitable processing produces ethyl N-[N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetyl]-L-prolinate (oil), saponification of which and processing of the reaction product yields N-[N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetyl]-L-proline (M.P. 199°).

reactant | N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetic acid | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CC(=O)O)C=C1 | C17H16ClNO3
reactant | ethyl L-prolinate | N1[C@H](C(=O)OCC)CCC1 | C7H13NO2
product | ethyl N-[N-(p-chlorobenzoyl)-2-(2,6-dimethylanilino)acetyl]-L-prolinate | ClC1=CC=C(C(=O)N(C2=C(C=CC=C2C)C)CC(=O)N2[C@H](C(=O)OCC)CCC2)C=C1 | C24H27ClN2O4
